US04089976
Preparation of cis and trans-N-(1,2,3,4-tetrahydro-4-methoxy-1-naphthyl)acetamide.
A mixture of racemic N-(1,2,3,4-tetrahydro-4-oxo-1-naphthyl)acetamide (3.9 g) and 150 ml. tetrahydrofuran (THF) is stirred and 17 ml. of methyl iodide and 24.4 g. of freshly prepared silver oxide are added over a 4-hour period, under a nitrogen atmosphere. After 16 hours, an additional 10 ml. of methyl iodide and 11.4 g. of silver oxide are added over a 4-hour period and stirring is continued for 2 days. The mixture is filtered through a layer of celite and the filter cake washed with THF (2 × 75 ml.). The filtrate and wash solution are combined and evaporated to dryness in vacuo to afford 4.3 g. of solid. The solid is recrystallized from hexane/ether to afford 2.4 g. of title compound, melting point 97°-100° C.

reactant | racemic N-(1,2,3,4-tetrahydro-4-oxo-1-naphthyl)acetamide | 3.9 g | O=C1CCC(C2=CC=CC=C12)NC(C)=O | C12H13NO2
reactant | methyl iodide | CI | CH3I
catalyst | silver oxide | [Ag]=O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | trans-N-(1,2,3,4-tetrahydro-4-methoxy-1-naphthyl)acetamide | CO[C@@H]1CC[C@H](C2=CC=CC=C12)NC(C)=O | C13H17NO2
